### PR TITLE
[Merged by Bors] - feat(Algebra): hom subsingleton iff exist smul regular in ann

### PR DESCRIPTION
**Pull request by Thmoas-Guan**
In this PR, we proved that for `R` modules `M N`, `Hom(N,M)` is subsingleton iff
there exist `r : R`, `IsSMulRegular M r` and `r ∈ ann(N)`.
This is the case for `Depth[I](M) = 0`.

Co-authored by: Yi Song <sif4delta0@mail.ustc.edu.cn>

---

- [x] depends on: #23718
- [x] depends on: #24242

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 1]
```diff
@@ -0,0 +1,163 @@
...
+  have heq : ⋃ i ∈ s, f i = ⋃ i ∈ t, (f i : Set R) := by
+    ext r
+    simp only [Set.mem_iUnion, SetLike.mem_coe, exists_prop]
+    exact exists_congr (fun i ↦ (and_congr_left fun a ↦ ht i).symm)
+  have hmem_union : ((I : Set R) ⊆ ⋃ i ∈ s, f i) ↔ ((I : Set R) ⊆ ⋃ i ∈ (t : Set ι), f i) :=
+    (congrArg _ heq).to_iff
+  have hexists_le: (∃ i ∈ t, I ≤ f i) ↔ ∃ i ∈ s, I ≤ f i :=
+    exists_congr (fun i ↦ and_congr_left fun _ ↦ ht i)
+  rw [hmem_union, Ideal.subset_union_prime a b (fun i hin ↦ hp i ((ht i).mp hin)), hexists_le]
+
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/Depth.lean:41]: This should go near the already existing lemmas about prime avoidance.

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 2]
```diff
@@ -0,0 +1,163 @@
+/-
+Copyright (c) 2025 Nailin Guan. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Nailin Guan, Yi Song
+-/
+import Mathlib.Algebra.Module.FinitePresentation
+import Mathlib.LinearAlgebra.Dual.Lemmas
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/Depth.lean:7]: This (`Mathlib.LinearAlgebra.Dual.Lemmas`) is a common superfluous import by `#min_import`. Can you confirm if this is actually necessary or not?

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 3]
```diff
@@ -0,0 +1,163 @@
...
+  have hmem_union : ((I : Set R) ⊆ ⋃ i ∈ s, f i) ↔ ((I : Set R) ⊆ ⋃ i ∈ (t : Set ι), f i) :=
+    (congrArg _ heq).to_iff
+  have hexists_le: (∃ i ∈ t, I ≤ f i) ↔ ∃ i ∈ s, I ≤ f i :=
+    exists_congr (fun i ↦ and_congr_left fun _ ↦ ht i)
+  rw [hmem_union, Ideal.subset_union_prime a b (fun i hin ↦ hp i ((ht i).mp hin)), hexists_le]
+
+lemma mem_associatePrimes_of_comap_mem_associatePrimes_localization (S : Submonoid R)
+    (p : Ideal (Localization S)) [p.IsPrime]
+    (ass : p.comap (algebraMap R (Localization S)) ∈ associatedPrimes R M) :
+    p ∈ associatedPrimes (Localization S) (LocalizedModule S M) := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/Depth.lean:45]: This should be stated with `IsLocalizedModule` and `IsLocalization`. I am hoping the proof goes through similarly, but if it is hard to generalize the proof (which is probably because lack of API) you could generalize in a separate lemma too.

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 4]
```diff
@@ -0,0 +1,163 @@
...
+        simp only [Localization.mk_mul, mul_one, one_mul, ← sub_eq_zero, Localization.sub_mk,
+          Submonoid.coe_mul, sub_zero]
+        simp [← mul_assoc, mul_comm s.1 a.2.1, Localization.mk_zero]
+      rw [this]
+      exact Ideal.IsTwoSided.mul_mem_of_left _ hs
+
+lemma mem_associatePrimes_localizedModule_atPrime_of_mem_associated_primes {p : Ideal R} [p.IsPrime]
+    (ass : p ∈ associatedPrimes R M) :
+    maximalIdeal (Localization.AtPrime p) ∈
+    associatedPrimes (Localization.AtPrime p) (LocalizedModule p.primeCompl M):= by
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/Depth.lean:81]:
```suggestion
    associatedPrimes (Localization.AtPrime p) (LocalizedModule p.primeCompl M) := by
```

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 5]
```diff
@@ -0,0 +1,163 @@
...
+  apply mem_associatePrimes_of_comap_mem_associatePrimes_localization
+  simpa [Localization.AtPrime.comap_maximalIdeal] using ass
+
+--lemma_212_a
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/Depth.lean:85]: Are these comments intended?

**Review by erdOne — COMMENTED** [review]
Would also be nice if you can tag the lemmas with the relavent tags in https://stacks.math.columbia.edu/tag/00L9.

File: Mathlib/RingTheory/Regular/Depth.lean (hunk 1 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean:41]: This is the problem, we found `Finset` hard to use, so we added this lemma.

Comment (erdOne) [reply Mathlib/RingTheory/Regular/Depth.lean:41]: I'm not saying we shouldn't have this. I'm saying this shouldn't be in this file.

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean:41]: Sorry, I understood go near wrongly...

File: Mathlib/RingTheory/Regular/Depth.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean:85]: I only forgot to remove it when porting, they sould be removed.

**Comment by Thmoas-Guan** [comment]
> Would also be nice if you can tag the lemmas with the relavent tags in https://stacks.math.columbia.edu/tag/00L9.

I think the lemma purly about associated primes should go to a separate file? As there is more lemmas about associated primes about localization we planed to formalized but not yet.

File: Mathlib/RingTheory/Regular/Depth.lean (hunk 5 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean:85]: Only because I forgot to remove when porting(:

File: Mathlib/RingTheory/Regular/Depth.lean (hunk 2 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean:7]: We indeed use it when constructing the nontrivial `N_p => k_p => M_p`

File: Mathlib/RingTheory/Regular/Depth.lean (hunk 3 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean]: I have some question here : if I use both `IsLocalizedModule` and `IsLocalization`, how can I get the module instance?

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean]: Thanks!

Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean]: Oops, it is a bit hard, as I need to compute explicit element and some API is missing. The main obstacle come from `IsLocalization` even if I us ethe proven result.

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 6]
```diff
@@ -1115,6 +1115,22 @@ theorem subset_union_prime {R : Type u} [CommRing R] {s : Finset ι} {f : ι →
...
+/-- Another version of Prime avoidance using `Set.Finite` instead of `Finset`. -/
+lemma subset_union_prime_finite {R ι : Type*} [CommRing R] {s : Set ι}
+    (hs : s.Finite) {f : ι → Ideal R} (a b : ι)
+    (hp : ∀ i ∈ s, i ≠ a → i ≠ b → (f i).IsPrime) {I : Ideal R} :
+    ((I : Set R) ⊆ ⋃ i ∈ s, f i) ↔ ∃ i ∈ s, I ≤ f i := by
+  rcases Set.Finite.exists_finset hs with ⟨t, ht⟩
+  have heq : ⋃ i ∈ s, f i = ⋃ i ∈ t, (f i : Set R) := by
+    ext r
+    simp only [Set.mem_iUnion, SetLike.mem_coe, exists_prop]
+    exact exists_congr (fun i ↦ (and_congr_left fun a ↦ ht i).symm)
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Operations.lean:1127]:
```suggestion
    ext
    simpa using exists_congr (fun i ↦ (and_congr_left fun a ↦ ht i).symm)
```

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 7]
```diff
@@ -1115,6 +1115,22 @@ theorem subset_union_prime {R : Type u} [CommRing R] {s : Finset ι} {f : ι →
...
+  have hmem_union : ((I : Set R) ⊆ ⋃ i ∈ s, f i) ↔ ((I : Set R) ⊆ ⋃ i ∈ (t : Set ι), f i) :=
+    (congrArg _ heq).to_iff
+  have hexists_le: (∃ i ∈ t, I ≤ f i) ↔ ∃ i ∈ s, I ≤ f i :=
+    exists_congr (fun i ↦ and_congr_left fun _ ↦ ht i)
+  rw [hmem_union, Ideal.subset_union_prime a b (fun i hin ↦ hp i ((ht i).mp hin)), hexists_le]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/Operations.lean:1132]:
```suggestion
  rw [hmem_union, Ideal.subset_union_prime a b (fun i hin ↦ hp i ((ht i).mp hin))]
  exact exists_congr (fun i ↦ and_congr_left fun _ ↦ ht i)
```

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean [hunk 8]
```diff
@@ -0,0 +1,73 @@
...
+import Mathlib.Algebra.Module.LocalizedModule.Basic
+import Mathlib.RingTheory.Ideal.AssociatedPrime.Basic
+import Mathlib.RingTheory.Localization.AtPrime
+
+/-!
+
+# Assocaited primes of localized module
+
+We proved that for `R` module `M`, when `p` is a prime ideal of `S⁻¹R` and `p ∩ R ∈ Ass(M)`,
+`p ∈ Ass (S⁻¹M)`.
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean:15]:
```suggestion
We prove that for an `R` module `M`, if `p` is a prime ideal of `S⁻¹R` and `p ∩ R ∈ Ass(M)` then
`p ∈ Ass (S⁻¹M)`.
```

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean [hunk 9]
```diff
@@ -0,0 +1,73 @@
...
+variable {R : Type*} [CommRing R] (S : Submonoid R) (R' : Type*)  [CommRing R'] [Algebra R R']
+  [IsLocalization S R']
+
+variable {M M' : Type*} [AddCommGroup M] [Module R M] [AddCommGroup M'] [Module R M']
+  (f : M →ₗ[R] M') [IsLocalizedModule S f] [Module R' M'] [IsScalarTower R R' M']
+
+open IsLocalRing LinearMap
+
+include S f in
+lemma mem_associatePrimes_of_comap_mem_associatePrimes_isLocalizedModule
```
[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean:33]: Maybe `associatedPrimes`?

**Comment by riccardobrasca** [comment]
If this is ready for review please remove "awaiting-author".

**Comment by Thmoas-Guan** [comment]
> If this is ready for review please remove "awaiting-author".

Sorry, I forgot to remove :)

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 10]
```diff
@@ -0,0 +1,103 @@
...
+there exist `r : R`, `IsSMulRegular M r` and `r ∈ ann(N)`.
+This is the case for `Depth[I](M) = 0`.
+
+-/
+
+open IsLocalRing LinearMap
+
+variable {R M N : Type*} [CommRing R] [AddCommGroup M] [AddCommGroup N] [Module R M] [Module R N]
+
+lemma hom_subsingleton_of_mem_ann_isSMulRegular {r : R} (reg : IsSMulRegular M r)
```
[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean:38]: Added

[the remark this answers is not in the document]
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean:38]: Added

**Comment by riccardobrasca** [comment]
@erdOne can you have a final look?

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean:40]: I think it is fine to be in the root name space since the long names wouldn't really clash with anything though. Or perhaps the `Module` namespace if one really wants one. (in that case `associatedPrimes` should also be in `Module` too)

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean [hunk 11]
```diff
@@ -0,0 +1,81 @@
...
+    (p : Ideal R') [p.IsPrime]
+    (ass : p.comap (algebraMap R R') ∈ associatedPrimes R M) :
+    p ∈ associatedPrimes R' M' := by
+  rcases ass with ⟨hp, x, hx⟩
+  constructor
+  · --may be able to remove `p.IsPrime`
+    trivial
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean:47]: Are you planning to remove this? This should be possible via `IsLocalization.isPrime_iff_isPrime_disjoint`.

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 12]
```diff
@@ -0,0 +1,115 @@
...
+
+-/
+
+open IsLocalRing LinearMap
+
+namespace IsSMulRegular
+
+variable {R M N : Type*} [CommRing R] [AddCommGroup M] [AddCommGroup N] [Module R M] [Module R N]
+
+lemma hom_subsingleton_of_mem_ann_isSMulRegular {r : R} (reg : IsSMulRegular M r)
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/Depth.lean:38]:
```suggestion
lemma subsingleton_linearMap {r : R} (reg : IsSMulRegular M r)
```
Since it is in the `isSMulRegular` namespace now we don't need to repeat it.
Or `subsingleton_linearMap_of_mem_annihilator` if you think that is important.

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 13]
```diff
@@ -0,0 +1,115 @@
...
+    (mem_ann : r ∈ Module.annihilator R N) : Subsingleton (N →ₗ[R] M) := by
+  apply subsingleton_of_forall_eq 0 (fun f ↦ ext fun x ↦ ?_)
+  have : r • (f x) = r • 0 := by
+    rw [smul_zero, ← map_smul, Module.mem_annihilator.mp mem_ann x, map_zero]
+  simpa using reg this
+
+lemma exist_mem_ann_isSMulRegular_of_hom_subsingleton_nontrivial [IsNoetherianRing R]
+    [Module.Finite R M] [Module.Finite R N] [Nontrivial M] (hom0 : Subsingleton (N →ₗ[R] M)) :
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/Depth.lean:46]:
```suggestion
lemma exists_mem_annihilator_of_subsingleton_linearMap_of_nontrivial [IsNoetherianRing R]
    [Module.Finite R M] [Module.Finite R N] [Nontrivial M] [hom0 : Subsingleton (N →ₗ[R] M)] :
```

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 14]
```diff
@@ -0,0 +1,115 @@
...
+lemma exist_mem_ann_isSMulRegular_of_hom_subsingleton [IsNoetherianRing R]
+    [Module.Finite R M] [Module.Finite R N] (hom0 : Subsingleton (N →ₗ[R] M)) :
+    ∃ r ∈ Module.annihilator R N, IsSMulRegular M r := by
+  by_cases htrivial : Subsingleton M
+  · use 0
+    constructor
+    · exact Submodule.zero_mem (Module.annihilator R N)
+    · exact IsSMulRegular.zero
+  · let _ : Nontrivial M := not_subsingleton_iff_nontrivial.mp htrivial
+    exact exist_mem_ann_isSMulRegular_of_hom_subsingleton_nontrivial hom0
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/Depth.lean:113]: Is this strictly stronger than the one above? Maybe you can just move the reduction to nontrivial modules into the proof there?

File: Mathlib/RingTheory/Regular/Depth.lean [hunk 15]
```diff
@@ -0,0 +1,115 @@
...
+there exist `r : R`, such that `IsSMulRegular M r` and `r ∈ ann(N)`.
+This is the case if `Depth[I](M) = 0`.
+
+# Main Results
+
+* `IsSMulRegular.hom_subsingleton_of_mem_ann_isSMulRegular` : for `R` module `N M`, `Hom(N, M) = 0`
+  if there is a `M`-regular in `Module.annihilator R N`.
+
+* `IsSMulRegular.exist_mem_ann_isSMulRegular_of_hom_subsingleton` : for `R` module `N M`,
+  there is a `M`-regular in `Module.annihilator R N` if `Hom(N, M) = 0`.
```
Comment (erdOne) [inline Mathlib/RingTheory/Regular/Depth.lean:28]: Can you package these two into an iff?

File: Mathlib/RingTheory/Ideal/Operations.lean [hunk 16]
```diff
@@ -1115,6 +1115,20 @@ theorem subset_union_prime {R : Type u} [CommRing R] {s : Finset ι} {f : ι →
           subset_union_prime' hp', ← or_assoc, or_self_iff] at h
         rwa [Finset.exists_mem_insert]
 
+/-- Another version of Prime avoidance using `Set.Finite` instead of `Finset`. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Operations.lean:1118]:
```suggestion
/-- Another version of prime avoidance using `Set.Finite` instead of `Finset`. -/
```

File: Mathlib/RingTheory/Regular/Depth.lean (hunk 12 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean:38]: With the two combined, maybe `subsingleton_linearMap_iff` would be a good name.

File: Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean (hunk 11 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Ideal/AssociatedPrime/Localization.lean:47]: This now need some netop assunmption, do we want this?

File: Mathlib/RingTheory/Regular/Depth.lean (hunk 15 above)
Comment (Thmoas-Guan) [reply Mathlib/RingTheory/Regular/Depth.lean]: I think the previous one should be left outside as it doesn't need that much conditions.

**Comment by riccardobrasca** [comment]
LGTM, thanks!

bors merge
